US06737425B1
50-1) 1-[2-(4-Fluorophenylsulfonyl)ethyl]-4-[t-butoxycarbonyl)piperazine
2-Chloroethyl-4-fluorophenyl sulfone (2.5 g), N-(t-butoxycarbonyl)piperazine (2.3 g) and triethylamine (1.7 ml) were dissolved in tetrahydrofuran (30 ml) and stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water, dried, and evaporated. The residue was purified by Cromatorex NH silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (4.4 g, quantitatively) as a colorless oil.

reactant | 2-Chloroethyl-4-fluorophenyl sulfone | 2.5 g | ClCCC1=C(C=CC(=C1)F)S(=O)(=O)C1=C(C=C(C=C1)F)CCCl | C16H14Cl2F2O2S
reactant | N-(t-butoxycarbonyl)piperazine | 2.3 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-(4-Fluorophenylsulfonyl)ethyl]-4-[t-butoxycarbonyl)piperazine | FC1=CC=C(C=C1)S(=O)(=O)CCN1CCN(CC1)C(=O)OC(C)(C)C | C17H25FN2O4S
